US07439232B2
To a solution of 2, 3, 4, 6-tetra-O-acetyl-5-thio-D-glucopyranose (481 mg, 1.32 mmol), 4-(4-ethylbenzyl)-3-hydroxypyridinium borane (200 mg, 0.881 mmol) and triphenylphosphine (230 mg, 1.32 mmol) in tetrahydrofuran (2.5 mL), diisopropyl azodicarboxylate (40% in toluene, 0.781 mL, 1.32 mmol) was added dropwise at 0° C. After stirring at room temperature for 2.5 hours, the reaction mixture was concentrated and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give a crude product of 4-(4-ethylbenzyl)-3-(2, 3, 4, 6-tetra-O-acetyl-5-thio-β-D-glucopyranosyloxy)pyridinium borane (440 mg) as a colorless oil. To this crude product, triethylamine:methanol:water (2:1:1, 3 mL) was added and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated and the resulting residue was mixed, without purification, with methanol (1.8 mL) and 2M HCl (1.8 mL), followed by stirring at room temperature for 30 minutes. After addition of saturated sodium bicarbonate solution under ice cooling, the reaction mixture was extracted with chloroform (5 mL×4). The organic layers were concentrated and the resulting residue was purified by silica gel column chromatography (chloroform:methanol 7:1) to give the titled compound (30 mg, 9%).

reactant | 2, 3, 4, 6-tetra-O-acetyl-5-thio-D-glucopyranose | 1.32 mmol, 481 mg | C(C)(=O)O[C@H]1C(O)S[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O9S
reactant | 4-(4-ethylbenzyl)-3-hydroxypyridinium borane | 0.881 mmol, 200 mg | B.C(C)C1=CC=C(CC2=C(C=[NH+]C=C2)O)C=C1
reactant | triphenylphosphine | 1.32 mmol, 230 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.32 mmol, 0.781 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 4-(4-ethylbenzyl)-3-(2, 3, 4, 6-tetra-O-acetyl-5-thio-β-D-glucopyranosyloxy)pyridinium borane | 440 mg | B.C(C)C1=CC=C(CC2=C(C=[NH+]C=C2)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](S2)COC(C)=O)C=C1 | InChI=1S/C28H33NO9S.BH3/c1-6-20-7-9-21(10-8-20)13-22-11-12-29-14-23(22)38-28-27(37-19(5)33)26(36-18(4)32)25(35-17(3)31)24(39-28)15-34-16(2)30;/h7-12,14,24-28H,6,13,15H2,1-5H3;1H3/p+1/t24-,25-,26+,27-,28-;/m1./s1
